US07513916B2
1.20 g N-(2-bromoethyl)-4-[(4-chloro-5-nitro-1,3-thiazol-2-yl)diazenyl]-N-ethylaniline is dissolved in 20 ml acetonitrile followed by subsequent addition of 5.99 g 1-methyl-1H-imidazole. The reaction mixture is stirred under reflux for 3 days and allowed to cool to room temperature. The resulted precipitate is filtered off, washed with acetonitrile, and dried in vacuum at 40° C. 0.43 g 1-{2-[{4-[(4-chloro-5-nitro-1,3-thiazol-2-yl)diazenyl]phenyl}(ethyl)amino]ethyl}-3-methyl-1H-imidazol-3-ium bromide is obtained as a bordeaux red powder.

reactant | N-(2-bromoethyl)-4-[(4-chloro-5-nitro-1,3-thiazol-2-yl)diazenyl]-N-ethylaniline | 1.20 g | BrCCN(C1=CC=C(C=C1)N=NC=1SC(=C(N1)Cl)[N+](=O)[O-])CC | C13H13BrClN5O2S
reactant | 1-methyl-1H-imidazole | 5.99 g | CN1C=NC=C1 | C4H6N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-{2-[{4-[(4-chloro-5-nitro-1,3-thiazol-2-yl)diazenyl]phenyl}(ethyl)amino]ethyl}-3-methyl-1H-imidazol-3-ium bromide | 0.43 g | [Br-].ClC=1N=C(SC1[N+](=O)[O-])N=NC1=CC=C(C=C1)N(CCN1C=[N+](C=C1)C)CC | InChI=1S/C17H19ClN7O2S.BrH/c1-3-24(11-10-23-9-8-22(2)12-23)14-6-4-13(5-7-14)20-21-17-19-15(18)16(28-17)25(26)27;/h4-9,12H,3,10-11H2,1-2H3;1H/q+1;/p-1
